US05550121
(2S,4R)-N-tert-Butoxycarbonyl-2-[2-(N-tert-butoxycarbonyl-N-methylcarbamoyl)-1-hydroxyethyl]-4-tert-butyldimethylsiloxypyrrolidine
Under a nitrogen atmosphere, a solution of N-tert-butoxycarbonyl-N-methylacetamide (289 mg, 1.67 mmol) in tetrahydrofuran (1.0 ml) and then hexamethylphosphoric triamide (290 μl, 1.67 mmol) were dropwise added at -78° C. to a solution comprising a 2.0M lithium diisopropylamide--tetrahydrofuran solution (835 μl, 1.67 mmol) and tetrahydrofuran (10 ml). The mixture was stirred at -78° C. for 20 minutes, and a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal (500 mg, 1.52 mmol) in tetrahydrofuran (2 ml) was dropwise added thereto. The reaction mixture was stirred at the same temperature for 30 minutes. Saturated aqueous ammonium chloride was added to the reaction mixture, and then the reaction mixture was poured into a mixture of ethyl acetate--water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated in vacuo. The obtained oily residue was subjected to silica gel column chromatography (heptane-ethyl acetate=1:2) to give the title compound (288.8 mg, yield: 37.8%).

reactant | N-tert-butoxycarbonyl-N-methylacetamide | 1.67 mmol, 289 mg | C(C)(C)(C)OC(=O)N(C(C)=O)C | C8H15NO3
reactant | hexamethylphosphoric triamide | 1.67 mmol, 290 μl | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | lithium diisopropylamide | 2.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal | 1.52 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.67 mmol, 835 μl | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-N-tert-Butoxycarbonyl-2-[2-(N-tert-butoxycarbonyl-N-methylcarbamoyl)-1-hydroxyethyl]-4-tert-butyldimethylsiloxypyrrolidine | 288.8 mg, yield: 37.8% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(N(C)C(=O)OC(C)(C)C)=O)O | C24H46N2O7Si
